data/pmechdb/original/mc_train_fold0/raw/train.txt
CC(=O)CC[C:20](=[O:21])C1=CC=C(C=C1)S(=O)(=O)C.C1=CC(=CC=C1[NH2:10])F.CC1=CC=C(C=C1)S(=O)(=O)O>>CC(=O)CC[C:20](C1=CC=C(C=C1)S(=O)(=O)C)([NH2+:10]C2=CC=C(C=C2)F)[O-:21].CC1=CC=C(C=C1)S(=O)(=O)O 10=20;20,21=21
C[C:10](=[C:11](C)[O-:12])C.C1[CH2:20][O:21]1>>C[C:11](=[O:12])[C:10](C)(C)[CH2:20]C[O-:21] 10,11=10,20;20,21=21;12=11
CCOC(=O)NN(C(=O)OCC)[P+:20](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.CC1(CC2C1CCC3(CC2(CCC3[O-:10])C)OC)C>>CCOC(=O)NN(C(=O)OCC)[P:20](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[O:10]C4CCC5(CC4(CCC6C5CC6(C)C)OC)C 10=20,
CCOC(=O)C(C)([C:20](=[O:21])C)N=NC1=C2C(=CC=NC2=C(C=C1)OC)C3=C(C=CC=C3)F.[OH-:10].O.[Cl-]>>CCOC(=O)C(C)([C:20](C)([OH:10])[O-:21])N=NC1=C2C(=CC=NC2=C(C=C1)OC)C3=C(C=CC=C3)F.O.[Cl-] 10=20;20,21=21
[H:20][O+:21](CCC1CC=CC1O)[Si-](C)(C)(C(C)(C)C)Cl.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.CC(C)(C)[Si-](C)(C)([O:21]CCC1CC=CC1O)Cl 10=20;20,21=21
[H:20][N+:21]1=CC=CC=C1.C1CC2(CCC1N3C=C(C=N3)I)OCC[O:10]2.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.O>>[H:20][O+:10]1CCOC12CCC(CC2)N3C=C(C=N3)I.C1=CC=[N:21]C=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.O 10=20;20,21=21
CCOC(=O)[CH:20]([NH:10]C(C)C1=CC=CC=C1)[OH:21].CC1=CC=CC=C1.CC(C1=CC=CC=C1)N>>CCOC(=O)[CH:20]=[NH+:10]C(C)C1=CC=CC=C1.[OH-:21].CC1=CC=CC=C1.CC(C1=CC=CC=C1)N 10=20;20,21=21
[B-:10]([O+:11]=CC(C=CCCCC)C(C)OCC)(F)(F)F>>[B:10](F)(F)F.CCCCC=CC(C=[O:11])C(C)OCC 10,11=11
CCO[C:20](=[OH+:21])C=C.[OH2:10]>>CCO[C:20](C=C)([OH2+:10])[OH:21] 10=20;20,21=21
[H:20][Cl:21].C1CC([C:11](=[CH:10]1)C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4>>[H:20][CH:10]1CCC([C+:11]1C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4.[Cl-:21] 10,11=10,20;20,21=21
C[N:10](C)N.C1=CC=C(C=C1)[CH2:20][Br:21]>>C[N+:10](C)([CH2:20]C1=CC=CC=C1)N.[Br-:21] 10=20;20,21=21
[H:20][O+:21](CC)C(CCCCCCC(=O)C)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[O:21]C(CCCCCCC(=O)C)O 10=20;20,21=21
C[C+:20]1CCCCC1.[OH2:10].[Cl-]>>C[C:20]1(CCCCC1)[OH2+:10].[Cl-] 10=20,
[H:10][C:11](C)(C)[CH+:20]CCC1=CCCC1.O>>[H:10][CH:20](CCC1=CCCC1)[C+:11](C)C.O 10,11=10,20
[H:20][O:21]C(C)(C)C(=O)C1CCCC2=C(C1=O)C=CC=C2.CCCC(C(C)CC)[O-:10].C1=CC=C(C=C1)P(=O)(C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][O:10]C(CCC)C(C)CC.CC(C)(C(=O)C1CCCC2=C(C1=O)C=CC=C2)[O-:21].C1=CC=C(C=C1)P(=O)(C2=CC=CC=C2)C3=CC=CC=C3 10=20;20,21=21
CC[N+](=S([O:21][CH2:20]C)F)CC.[F-:10].F>>CC[N+](=S([O-:21])F)CC.C[CH2:20][F:10].F 10=20;20,21=21
[H:20][O:21][O:12][C:11](=[O:10])C(F)(F)F>>[H:20][O:10][C:11](=[O+:12][O-:21])C(F)(F)F 10,11=10,20;20,21=21;12=11
[H:20][OH:21].CCO[C:11](=[CH:10]CC(C(=O)OCC)C(=O)OCC)[O-:12]>>[H:20][CH:10](CC(C(=O)OCC)C(=O)OCC)[C:11](=[O:12])OCC.[OH-:21] 10,11=10,20;20,21=21;12=11
[H:20][O:21][C:22](=[O+:23][B-](F)(F)F)C.C[CH:10]=[C:11](C(=O)C)C(C)(C)[Si](C)(C)C>>[H:20][CH:10](C)[C+:11](C(=O)C)C(C)(C)[Si](C)(C)C.[B-]([O:23][C:22](=[O:21])C)(F)(F)F 10,11=10,20;22,23=23;20,21=21,22
C1CCC(CC1)C2CC[CH2:10][C:11](C2)([CH2:20][N+:21]#N)[OH:12].O.[Cl-]>>C1CCC(CC1)C2CC[CH2:10][CH2:20][C:11](=[OH+:12])C2.N#[N:21].O.[Cl-] 10,11=10,20;20,21=21;12=11
[H:20][O:21]S(=O)(=O)O.C[CH:10]=[CH:11][OH:12]>>[H:20][CH:10](C)[CH:11]=[OH+:12].OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
[CH:11]1=[CH:10]C2=CC=C(C=C2C=C1)S(=O)(=O)O.[N+:20](=O)=[O:21]>>C1=CC2=CC(=CC=C2[CH:10]([CH+:11]1)[N+:20](=O)[O-:21])S(=O)(=O)O 10,11=10,20;20,21=21
CC#[C-:10].CC(=O)O[C:20](=[O:21])C>>CC#[C:10][C:20](C)([O-:21])OC(=O)C 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=CC=C2C(=O)C)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(=O)C1=CC=CC2=C1C=C[CH:22]=[C:21]2S(=O)(=O)O 10=20;20,21=21,22
[H:20][N+:21]1(C(=CCC1(C)O)C)C2=C(C=CC=C2)Br.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.CC1=CCC([N:21]1C2=C(C=CC=C2)Br)(C)O.O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.C1CCC(C1)(C2=C3C=CC=CC3=CC=C2)[OH:10].C1=CC=CC=C1>>[H:20][OH+:10]C1(CCCC1)C2=C3C=CC=CC3=CC=C2.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].C1=CC=CC=C1 10=20;20,21=21
[H:20][O+:21]=C1CCCC(=O)C1=CC=C(C)C.CC[NH:10]CC>>CC(=CC=C1C(=O)CCCC1=[O:21])C.[H:20][NH+:10](CC)CC 10=20;20,21=21
[H:20][OH+:21]C1=NCC2(CCC(C1)(N2OC(=O)C)C)C.CC[N:10](CC)CC.CC1=CC(=C(C(=C1)C)S(=O)(=O)[O-])C>>[H:20][N+:10](CC)(CC)CC.CC(=O)ON1C2(CCC1(CN=C(C2)[OH:21])C)C.CC1=CC(=C(C(=C1)C)S(=O)(=O)[O-])C 10=20;20,21=21
[H:20][CH:21]1CCCC([C:22]1=[O:23])(C)C(=O)OCC.CC(C)(C)[O-:10]>>[H:20][O:10]C(C)(C)C.CCOC(=O)C1(CCC[CH:21]=[C:22]1[O-:23])C 10=20;22,23=23;20,21=21,22
[H:20][O:21]C(=O)C1=C(CSC2N1C(=O)C2NC(=O)CC3=CC=CC=C3)C=C.CCOC(=O)NN(C(=[O:10])OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OCC(C(=O)OC(C)C)NC(=O)OC(C)(C)C>>[H:20][O+:10]=C(N(NC(=O)OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OCC(C(=O)OC(C)C)NC(=O)OC(C)(C)C)OCC.C=CC1=C(N2C(C(C2=O)NC(=O)CC3=CC=CC=C3)SC1)C(=O)[O-:21] 10=20;20,21=21
CCOC(=O)N(CC1=CC=CC=C1)C(C=[C+]C[Si:20](C)(C)C)C2=CC=CC=C2.CC[O:10][Al-](CC)(Cl)Cl>>CCOC(=O)N(CC1=CC=CC=C1)C(C=[C+]C[Si-:20](C)(C)(C)[O+:10](CC)[Al-](CC)(Cl)Cl)C2=CC=CC=C2 10=20,
[H:20][CH2:21][C:22](=[OH+:23])CCC(=O)C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(=O)CC[C:22](=[CH2:21])[OH:23] 10=20;22,23=23;20,21=21,22
